data/mechanism_extracts/EurJOC/10.1002_ejoc.202301246_sup_1.json
{"doi": "10.1002_ejoc.202301246_sup_1", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical [3+2] annulation of 3-aza-1,5-dienes with dimethyl malonate to access 4-pyrrolin-2-ones with cathodic H2 evolution", "mechanism_family": ["radical_anodic", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation generates a malonyl radical from deprotonated dimethyl malonate; cathodic reduction of protons produces H2", "key_intermediates": [{"name": "malonyl-stabilized C-centered radical from dimethyl malonate", "smiles": "COC(=O)[CH]C(=O)OC", "role": "reactive"}, {"name": "N-acyl alpha-amino allyl/C-centered radical after radical addition to the methacrylamide alkene", "smiles": null, "role": "transient"}, {"name": "cyclized N-acyl iminium / radical cation intermediate prior to deprotonation/aromatization to 4-pyrrolin-2-one", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes the malonate anion (formed by n-Bu4NOAc base) to a malonyl C-radical that adds to the methacrylamide C=C of the 3-aza-1,5-diene; the resulting carbon radical cyclizes onto the pendant styrenyl alkene, and a further SET oxidation/deprotonation furnishes the 4-pyrrolin-2-one, with protons reduced at the stainless-steel cathode to H2.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO/BHT (radical quenching experiments)", "smiles": null, "purpose": "radical_trap", "observation": "Reaction suppressed in the presence of radical scavengers, supporting a radical pathway"}, {"name": "electricity on/off", "smiles": null, "purpose": "other", "observation": "Product formation only progresses while current is applied, indicating continuous electrolysis is required"}, {"name": "H2 detection (GC)", "smiles": "[H][H]", "purpose": "other", "observation": "H2 detected as the cathodic counter-product"}, {"name": "cyclic voltammetry of substrates/malonate", "smiles": null, "purpose": "redox_probe", "observation": "Oxidation event consistent with anodic oxidation of the malonate anion being the initiating SET step"}], "evidence_types_used": ["intermediate_trap_TEMPO", "intermediate_trap_BHT", "on/off_light_or_current", "cyclic_voltammetry", "other"], "evidence_strength": "medium", "notes": "Mechanism inferred from the SI section headings (quenching, on/off, H2 detection, CV) and the gram-scale electrolysis scheme using C(+)/stainless-steel(-) electrodes with n-Bu4NOAc in MeCN; full mechanistic schemes were not visible on the supplied pages, so specific intermediate SMILES beyond the malonyl radical are left null."}
